US05304568
36.6 g (326 mmol) of potassium tert.-butylate are added at 0° C. with stirring, to a solution of 115 g (271 mmol) of 2-chlorobenzyl-triphenylphosphonium chloride in 600 ml of tetrahydrofuran. After the addition has ended, stirring is continued for one hour at 40° C. A solution of 50.4 g (271 mmol) of 1-chlorocyclopropyl-(1,2,4-triazol-1-yl)-methyl ketone in 300 ml of tetrahydrofuran is subsequently added dropwise at 30° C. with stirring. The reaction mixture is stirred for 16 hours at room temperature and then poured into saturated, aqueous ammonium chloride solution. The phases are separated, the aqueous phase is extracted several times using ethyl acetate, and the combined organic phases are dried over sodium sulphate and concentrated by stripping off the solvent under reduced pressure. The residue which remains is chromatographed on silica gel using a mixture of cyclchexane:ethyl acetate=2:1 as eluent. In this manner, 61.5 g (77% of theory) of 2-(1-chlorocyclopropyl)-1-(1,2,4 -triazol-1-yl)-3-(2-chlorophenyl)-2-propene (E/Z isomer mixture) are obtained in the form of a solid of melting point 82°-85° C.

reactant | 2-chlorobenzyl-triphenylphosphonium chloride | 271 mmol, 115 g | [Cl-].ClC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1-chlorocyclopropyl-(1,2,4-triazol-1-yl)-methyl ketone | 271 mmol, 50.4 g | ClC1(CC1)C(N1N=CN=C1)C(=O)C(C1(CC1)Cl)N1N=CN=C1 | C13H14Cl2N6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-(1-chlorocyclopropyl)-1-(1,2,4 -triazol-1-yl)-3-(2-chlorophenyl)-2-propene | 61.5 g, 77% | ClC1(CC1)C(CN1N=CN=C1)=CC1=C(C=CC=C1)Cl | C14H13Cl2N3
